US05998433
c) Synthesis of (Z)-N,N-dimethyl-[5-(3-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
(Z)-N,N-Dimethyl-[5-(3-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.390 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | (Z)-N,N-Dimethyl-[5-(3-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.390 g | CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(\C=C/C2=CC(=CC=C2)Cl)C=C1 | C24H25ClN2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (Z)-N,N-dimethyl-[5-(3-chlorostilbene-4'-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(\C=C/C2=CC(=CC=C2)Cl)C=C1 | InChI=1S/C24H25ClN2O3S.ClH/c1-26(2)17-22-15-20-16-27(13-12-24(20)30-22)31(28,29)23-10-8-18(9-11-23)6-7-19-4-3-5-21(25)14-19;/h3-11,14-15H,12-13,16-17H2,1-2H3;1H/b7-6-;
